US09102591B2
2-(3-Hydroxypropoxy)-2-(2-methylpyrimidin-5-yl)acetonitrile
To an ice-cold solution of 5-(1,3-dioxan-2-yl)-2-methylpyrimidine (140 mg, 0.78 mmol) in DCM (5.0 ml) was added zinc iodide (124 mg, 0.39 mmol). Trimethylsilyl cyanide (116 mg, 0.155 ml, 1.17 mmol) was added dropwise over a period of 10 minutes. Cooling was removed and the reaction was stirred for 40 hours at room temperature. The mixture was poured into H2O (20 mL) and extracted with DCM (3×20 mL), the combined org. phases were washed with brine, dried over MgSO4 and concetrated in vacuo. The crude product was used for next step without further purification.

reactant | 5-(1,3-dioxan-2-yl)-2-methylpyrimidine | 0.78 mmol, 140 mg | O1C(OCCC1)C=1C=NC(=NC1)C | C9H12N2O2
reactant | Trimethylsilyl cyanide | 1.17 mmol, 0.155 ml, 116 mg | C[Si](C)(C)C#N | C4H9NSi
solvent | DCM | 5.0 ml | C(Cl)Cl | CH2Cl2
catalyst | zinc iodide | 0.39 mmol, 124 mg | [I-].[Zn+2].[I-]
product | 2-(3-Hydroxypropoxy)-2-(2-methylpyrimidin-5-yl)acetonitrile | OCCCOC(C#N)C=1C=NC(=NC1)C | C10H13N3O2
